US08404679B2
N-[(3RS,4SR)-4-(3,4-Dichloro-phenyl)-1-(6-morpholin-4-yl-pyridine-3-carbonyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-acetamide
In analogy to the procedure described for the synthesis of example 87 (step c), the title compound N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-(6-morpholin-4-yl-pyridine-3-carbonyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-acetamide was prepared from N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-acetamide using 6-morpholinonicotinic acid instead of 1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid and was obtained as a light yellow oil. MS m/e: 571.1 [M]+.

reactant | N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-acetamide | ClC=1C=C(C=CC1Cl)C1C(CNC1)N(C(CC1=CC=C(C=C1)F)=O)C | C19H19Cl2FN2O
reactant | 6-morpholinonicotinic acid | O1CCN(CC1)C1=NC=C(C(=O)O)C=C1 | C10H12N2O3
product | N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-(6-morpholin-4-yl-pyridine-3-carbonyl)-pyrrolidin-3-yl]-2-(4-fluoro-phenyl)-N-methyl-acetamide | ClC=1C=C(C=CC1Cl)C1C(CN(C1)C(=O)C=1C=NC(=CC1)N1CCOCC1)N(C(CC1=CC=C(C=C1)F)=O)C | C29H29Cl2FN4O3
